US04639521
To 24 g of 40% boron trifluoride acetate complex cooled on ice, a mixture of 5.6 g of 4-methylcyclohexanone and 10.5 g of acetic anhydride was dropwise added. The resultant mixture was then stirred at room temperature for 4 hours. To the mixture there was added 50 ml of a saturated aqueous solution of sodium acetate, and then the mixture was heated under reflux for one hour. After cooling, the reaction mixture was extracted with ether to obtain 2-acetyl-4-methylcyclohexanone, which was directly used in the following step without further purifying.

reactant | 4-methylcyclohexanone | 5.6 g | CC1CCC(CC1)=O | C7H12O
reactant | acetic anhydride | 10.5 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
product | 2-acetyl-4-methylcyclohexanone | C(C)(=O)C1C(CCC(C1)C)=O | C9H14O2
